US08859549B2
ethyl 2-(4-oxo-3,4-dihydrophthalazin-1-yl)propanoate
To a solution of 4-(1-carboxyethyl)-1(2H)-phthalazinone (1.5 g, 6.9 mmol) in EtOH (50 mL) was added thionyl chloride (1.10 mL, 15.1 mmol). The mixture was stirred at 80° C. for 4 hours, cooled to 0° C., and quenched with 1M NaHCO3 (40 mL). The aq layer was extracted with EtOAc (2×50 mL), dried (Na2SO4), filtered, and concentrated to give the title compound: MS (ESI+) M/Z 247 (M+H)+.

reactant | 4-(1-carboxyethyl)-1(2H)-phthalazinone | 6.9 mmol, 1.5 g | C(=O)(O)C(C)C1=NNC(C2=CC=CC=C12)=O | C11H10N2O3
reactant | thionyl chloride | 15.1 mmol, 1.10 mL | S(=O)(Cl)Cl | Cl2OS
reactant | EtOH | 50 mL | CCO | C2H6O
product | ethyl 2-(4-oxo-3,4-dihydrophthalazin-1-yl)propanoate | O=C1NN=C(C2=CC=CC=C12)C(C(=O)OCC)C | C13H14N2O3
